US06967201B1
1-benzyl-3(S)-isopropylpiperazine
To 100 mL tetrahydrofuran cooled to 0° C. were added 9 mL (8.9 mMol) lithium aluminum hydride (1.0 M in tetrahydrofuran) dropwise. To this was added dropwise a solution of 1.0 gm (4.06 mmol) 1-benzyl-2,5-dioxo-3(S)-isopropylpiperazine in 50 mL dichloromethane over 30 minutes. The reaction mixture was then heated at reflux over night. The reaction mixture was then cooled to 0° C. and was stirred vigorously while being treated sequentially with 1 mL water, 1 mL 5N sodium hydroxide, 2 mL water, and 5 gm sodium sulfate. After stirring for 30 minutes the reaction mixture was filtered and the filter cake washed with dichloromethane. The filtrate was concentrated under reduced pressure and the yellow waxy solid residue was subjected to silica gel chromatography, eluting with dichloromethane containing 0–3% methanol. Fractions containing product were combined and concentrated under reduced pressure to provide 0.38 gm (42%) of the title compound.

reactant | lithium aluminum hydride | 8.9 mMol, 1.0 M, 9 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-benzyl-2,5-dioxo-3(S)-isopropylpiperazine | 4.06 mmol, 1.0 gm | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)C(C)C)=O | C14H18N2O2
reactant | sodium hydroxide | 5N, 1 mL | [OH-].[Na+]
reactant | sodium sulfate | 5 gm | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 2 mL | O | H2O
solvent | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-benzyl-3(S)-isopropylpiperazine | 0.38 gm, 42% | C(C1=CC=CC=C1)N1C[C@@H](NCC1)C(C)C | C14H22N2
